US07368468B2
Fluvastatin methyl ester (2.0 g) was added to a solution of NaOH (1 eq.) in propan-2-ol (15 ml). The mixture was stirred at about 70° C. for 2 h, after which time the starting material was no longer detectable by HPLC. Then, acetonitrile (40 ml) was dripped into the mixture. The mixture was cooled slowly to room temperature and stirred overnight. The product was isolated by filtration under nitrogen, washed with acetonitrile (50 ml) and dried at 50° C. in a vacuum oven for 24 h to obtain 1.54 g (75.5%) of fluvastatin sodium Form XIV.

reactant | Fluvastatin methyl ester | 2.0 g | CC(C)N1C2=CC=CC=C2C(=C1/C=C/[C@@H](C[C@@H](CC(=O)OC)O)O)C3=CC=C(C=C3)F | C25H28FNO4
reactant | NaOH | 1 eq. | [OH-].[Na+]
reactant | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | propan-2-ol | 15 ml | CC(C)O | C3H8O
product | fluvastatin sodium | 1.54 g, 75.5% | CC(C)N1C=2C=CC=CC2C(=C1/C=C/C(CC(CC(=O)[O-])O)O)C=3C=CC(=CC3)F.[Na+] | InChI=1S/C24H26FNO4.Na/c1-15(2)26-21-6-4-3-5-20(21)24(16-7-9-17(25)10-8-16)22(26)12-11-18(27)13-19(28)14-23(29)30;/h3-12,15,18-19,27-28H,13-14H2,1-2H3,(H,29,30);/q;+1/p-1/b12-11+;
